* 40G HBT PA output match (generated from RFampcir.cir reference)
.include /foss/tools/qucs-s/share/qucs-s/xspice_cmlib/include/ngspice_mathfunc.inc
.SUBCKT IHP_PDK_nonlinear_components_npn13G2 gnd c b e bn Nx=1
X1 c b e bn npn13G2 Nx={Nx}
.ENDS
.lib /home/nindukuri/IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/models/cornerHBT.lib hbt_typ
.lib /home/nindukuri/IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/models/cornerRES.lib res_wcs
.lib /home/nindukuri/IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/models/cornerCAP.lib cap_typ
.lib /home/nindukuri/IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/models/cornerMOSlv.lib mos_tt
VPr1 _net0 _net1 dc 0
VP1 _net2 0 dc 0 ac 158.866m sin(0 158.866m 3g 0 0) portnum 1 z0 50
V1 _net5 0 dc 1.65
V2 _net6 0 dc 970m
Xnpn13G1 0 _net1 _net7 0 0 IHP_PDK_nonlinear_components_npn13G2 Nx=10
R1 _net8 _net7 881.5 tc1=0.0 tc2=0.0
C2 _net8 _net7 32f
VP2 _net4 0 dc 0 ac 632.456m sin(0 632.456m 1meg 0 0) portnum 2 z0 50
L2 _net6 _net8 395.1p
C3 _net9 _net8 9.103f
C4 _net2 _net9 34.427f
C5 _net3 _net4 116.569f
L4 _net0 _net5 119.15199999999999p
L5 _net1 _net3 168.944p
L3 0 _net9 293.55p

.control

.sp lin 401 100meg 100g 1
let num = (1/4)*(abs(v(y_2_1)-v(y_1_2))*abs(v(y_2_1)-v(y_1_2)))
let den = real(v(y_1_1))*real(v(y_2_2))-real(v(y_2_1))*real(v(y_1_2))
let Gmax = num/den
let Fmax = sqrt(mag(Gmax))*frequency
let s11_db = db(v(s_1_1))
let s12_db = db(v(s_1_2))
let s21_db = db(v(s_2_1))
let s22_db = db(v(s_2_2))
let s11_mag = mag(v(s_1_1))
let s11_conj = conj(v(s_1_1))
let s12_mag = mag(v(s_1_2))
let s12_conj = conj(v(s_1_2))
let s21_mag = mag(v(s_2_1))
let s21_conj = conj(v(s_2_1))
let s22_mag = mag(v(s_2_2))
let s22_conj = conj(v(s_2_2))
let delta = v(s_1_1)*v(s_2_2)-v(s_1_2)*v(s_2_1)
let delta_mag = mag(delta)
let kf = (1-s11_mag*s11_mag-s22_mag*s22_mag+delta_mag*delta_mag)/(2*mag(v(s_1_2)*v(s_2_1)))
let mu = (1-s11_mag*s11_mag)/(mag(v(s_2_2)-delta*s11_conj)+mag(v(s_1_2)*v(s_2_1)))
let muprime = (1-s22_mag*s22_mag)/(mag(v(s_1_1)-delta*s22_conj)+mag(v(s_1_2)*v(s_2_1)))
write spice4qucs.sp1.plot S_1_1 Y_1_1 Z_1_1 Cy_1_1 S_1_2 Y_1_2 Z_1_2 Cy_1_2 S_2_1 Y_2_1 Z_2_1 Cy_2_1 S_2_2 Y_2_2 Z_2_2 Cy_2_2 Rn NF SOpt NFmin num den Gmax Fmax s11_db s12_db s21_db s22_db s11_mag s11_conj s12_mag s12_conj s21_mag s21_conj s22_mag s22_conj delta delta_mag kf mu muprime
destroy all
reset

exit
.endc
.END