API Test Circuit
.options TEMP=25
.lib /home/nindukuri/IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/models/cornerMOSlv.lib mos_tt
.lib /home/nindukuri/IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/models/cornerRES.lib res_typ
.lib /home/nindukuri/IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/models/cornerCAP.lib cap_typ
.lib /home/nindukuri/IHP-Open-PDK/ihp-sg13g2/libs.tech/ngspice/models/cornerHBT.lib hbt_typ
XM1 out gate 0 0 sg13_lv_nmos l=130n w=149.99999999999997n ng=1
Vsupply vdd 0 dc 5
Rg1 vdd gate 1k
Rg2 gate 0 1k
XRsload vdd out 0 rsil l=100.00000000000001u w=499.99999999999994n
XCout out 0 cap_cmim l=10.000000000000002u w=10.000000000000002u
.op
.control
run
save all
print @n.xm1.nsg13_lv_nmos[gm]
print @n.xm1.nsg13_lv_nmos[ids]
print v(out)
print v(gate)
.endc
.END