netlist
.options TEMP=25
Xq1 n1 VCC GND npn13G2 Nx=1
Xc_in RFIN n1 cmim w=10 l=10
Xc_out n2 RFOUT cmim w=10 l=10
Xr_bias VBIAS n1 rsil dx=500m dy=20
.run
.END