* Generated from gdsfactory YAML

* sch_x=0 sch_y=0 sch_r=None
Rr_top vin vout rsil w=0.5 l=10
* sch_x=30 sch_y=0 sch_r=None
Rr_bottom vout gnd rsil w=0.5 l=5

* IHP models from cell VLSIR metadata
.lib 'resistors_mod.lib'  ; rsil (SUBCKT)
.end