Voltage Divider with Current Measurement

* Components: Name Node1 Node2 Value
V1 1 0 DC 10V          ; Input Voltage (10V)
R1 1 2 1k              ; Top Resistor
R2 3 0 1k              ; Bottom Resistor

* Ammeter: 0V source inserted between node 2 and 3
Vmeas 2 3 DC 0V        

* Analysis: DC sweep or operating point
.op

.control
  run
  
  * Display the voltage at the divider node
  print v(2)
  
  * Display the current through the dummy source
  * Note: SPICE follows passive sign convention (current flows + to -)
  print i(Vmeas)
  
.endc

.end